US07141561B2
2-Dimethylamino-N-{4-[2-oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}acetamide
TOTU (327 mg) was added to a solution of 1-(4-aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (343 mg) in DMF (3 ml) at 0° C. After 10 minutes, Hünig base (130 mg) and then a solution of dimethylglycine (103 mg) in DMF (1 ml) was added. After a reaction time of 12 hours at room temperature, the mixture was mixed with water and extracted with ethyl acetate. The organic phase was washed with sodium bicarbonate solution, dried over magnesium sulfate and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 428.50 (C25H24N4O3); MS (ESI): 429 ([M+H]+) was obtained as hydrotrifluoroacetate in this way.

reactant | TOTU | 327 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-(4-aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 343 mg | NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H17N3O2
reactant | Hünig base | 130 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylglycine | 103 mg | CN(CC(=O)O)C | C4H9NO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Dimethylamino-N-{4-[2-oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}acetamide | CN(CC(=O)NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H24N4O3
